US07211585B2
Naphthalene-1-sulfonic acid [4-(3,4-dihydro-1H-isoquinolin-2-yl)-butyl]amide hydrochloride
A solution of 2-(4-aminobutyl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride (272 mg, 1 mmol), N,N-diisopropylethylamine (517 mg, 4 mmol) in CH2Cl2 (10 mL), was added naphtalene-1-sulfonyl chloride (238 mg, 1.05 mmol) and was stirred overnight at room temperature. The resulting solution was washed with water (3×15 mL) and dried over Na2SO4, and evaporated to dryness. The free base was dissolved in 2-propanol (5 mL). A 2.8 M solution of hydrogen chloride in ethanol (0.40 mL) was then added. The product was crystallized and collected by filtration, and vacuum dried to give a white solid (310 mg, 72%).

reactant | 2-(4-aminobutyl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride | 1 mmol, 272 mg | Cl.Cl.NCCCCN1CC2=CC=CC=C2CC1
reactant | N,N-diisopropylethylamine | 4 mmol, 517 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | naphtalene-1-sulfonyl chloride | 1.05 mmol, 238 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | Naphthalene-1-sulfonic acid [4-(3,4-dihydro-1H-isoquinolin-2-yl)-butyl]amide hydrochloride | 310 mg, 72% | Cl.C1N(CCC2=CC=CC=C12)CCCCNS(=O)(=O)C1=CC=CC2=CC=CC=C12 | InChI=1S/C23H26N2O2S.ClH/c26-28(27,23-13-7-11-20-9-3-4-12-22(20)23)24-15-5-6-16-25-17-14-19-8-1-2-10-21(19)18-25;/h1-4,7-13,24H,5-6,14-18H2;1H
